* source HOMEWORK1
R_R1         N00156 N00058  20 TC=0,0 
R_R2         0 N00058  100 TC=0,0 
C_C1         0 N00058  .003  TC=0,0 
V_V1         N00156 0 DC 0V AC 1V 
