* source LAB5
R_R1         N14635 N14531  100k TC=0,0 
R_R3         N14595 N14531  5k TC=0,0 
C_C2         N14595 N14623  1u  TC=0,0 
V_V1         N14697 0  AC 1
+SIN 0 50m 1k 0 0 0
R_R2         0 N14635  50k TC=0,0 
R_R5         0 N14623  50k TC=0,0 
Q_Q1         N14595 N14635 N14717 Q2N3904
C_C1         N14697 N14635  1u  TC=0,0 
V_V2         N14531 0 15
R_R4         0 N14717  3k TC=0,0 
